US07635715B2
A catalytic amount of DMF (approximately 3 drops) was added to a stirred mixture of 4-chloro-2-iodobenzoic acid (24.47 g, 86.63 mmol) and oxalyl chloride (11.34 mL, 129.9 mmol) in DCM (100 mL) under a nitrogen atmosphere. The reaction mixture was stirred for 2 hours and then concentrated in vacuo to give 4-chloro-2-iodobenzoyl chloride as a yellow oil that solidified upon standing (26.07 g).

reactant | 4-chloro-2-iodobenzoic acid | 86.63 mmol, 24.47 g | ClC1=CC(=C(C(=O)O)C=C1)I | C7H4ClIO2
reactant | oxalyl chloride | 129.9 mmol, 11.34 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | approximately 3 drops | CN(C)C=O | C3H7NO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-iodobenzoyl chloride | ClC1=CC(=C(C(=O)Cl)C=C1)I | C7H3Cl2IO
